US05726194
A mixture of 4.6 g of 5-dimethylamino-N-(5-bromo-6-ethyl-2,1,3-benzoxadiazol-4-yl)-1-naphthalenesulfonamide and 1.3 g of copper cyanide is heated for 8 hours at 120° in 30 ml of pyridine. The mixture is poured onto aqueous ammonia solution, worked up in the customary manner and 5-dimethylamino- N-(5-cyano-6-ethyl-2,1,3-benzoxadiazol-4-yl)-1-naphthalenesulfonamide is obtained.

reactant | 5-dimethylamino-N-(5-bromo-6-ethyl-2,1,3-benzoxadiazol-4-yl)-1-naphthalenesulfonamide | 4.6 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=C(C(=CC2=NON=C21)CC)Br)C | C20H19BrN4O3S
reactant | copper cyanide | 1.3 g | [Cu](C#N)C#N
reactant | ammonia | N | H3N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-dimethylamino- N-(5-cyano-6-ethyl-2,1,3-benzoxadiazol-4-yl)-1-naphthalenesulfonamide | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=C(C(=CC2=NON=C21)CC)C#N)C | C21H19N5O3S
